US06632810B2
Synthesis of N,N′-bis[(1-methyl-4,5,6-trimethoxybenzimidazol-2-yl)methyl]piperazine:
2-Chloromethyl-1-methyl-4,5,6-trimethoxybenzimidazole (75 mg) and piperazine (10 mg) were reacted in the same manner as in Example 1 to obtain the title compound as a free base.

reactant | 2-Chloromethyl-1-methyl-4,5,6-trimethoxybenzimidazole | 75 mg | ClCC1=NC2=C(N1C)C=C(C(=C2OC)OC)OC | C12H15ClN2O3
reactant | piperazine | 10 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[(1-methyl-4,5,6-trimethoxybenzimidazol-2-yl)methyl]piperazine | CN1C(=NC2=C1C=C(C(=C2OC)OC)OC)CN2CCN(CC2)CC2=NC1=C(N2C)C=C(C(=C1OC)OC)OC | C28H38N6O6
